US08536323B2
5-[3-(trifluoroacetamido)propyl]cytidine (0.69 g, 1.74 mmol) was dissolved in DI H2O (8.5 mL). After complete dissolution, concentrated ammonium hydroxide (NH4OH) (8.5 mL) was added to the reaction mixture. The reaction solution was stirred at ambient temperature for 2-3 h and then concentrated under reduced pressure giving the crude product as yellow-orange residue. The crude product was dissolved in deionized H2O (10 mL) and AG50W-X8 resin (2.5 g) was added to the solution. The suspension was stirred for 15 min and filtered over a bed of AG50W-X8 resin (2.5 g). The resin was washed with DI H2O and the product was then eluted off of the resin by washing the resin with deionized H2O/conc. NH4OH, 4:1, collecting fractions (monitored by TLC). Removal of solvent from the appropriate fractions afforded 0.51 g (98%) of 5-(3-aminopropyl)cytidine as light tan solid, which was confirmed by 1H-NMR.

reactant | 5-[3-(trifluoroacetamido)propyl]cytidine | 1.74 mmol, 0.69 g | FC(C(=O)NCCCC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)N)(F)F | C14H19F3N4O6
reactant | ammonium hydroxide | 8.5 mL | [OH-].[NH4+]
solvent | H2O | 8.5 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | 5-(3-aminopropyl)cytidine | 0.51 g, 98% | NCCCC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)N | C12H20N4O5
